US06046232
Synthesis of α-(3,4-Ethylenedioxyphenyl)-N-cyclohexylnitrone
The title compound was prepared according to the procedure described in Example 11 using 3,4ethylenedioxybenzaldehyde and N-cyclohexylhydroxylamine. The title compound was isolated in 74.5% yield as a solid, m.p. 96.7° C.

reactant | 3,4ethylenedioxybenzaldehyde | C1OC=2C=C(C=O)C=CC2OC1 | C9H8O3
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | α-(3,4-Ethylenedioxyphenyl)-N-cyclohexylnitrone | C1OC=2C=C(C=CC2OC1)C=[N+]([O-])C1CCCCC1 | C15H19NO3
